US05840732
i) Synthesis of 3-benzyl-5-phenylpyrimidine-2,4,6(1H,3H)-trione
To a suspension of 100 g (666 mmol) of benzylurea and 156.8 g (666 mmol) of diethyl phenylmalonate in 340 ml of methanol, 164 ml (666 mmol) of a 4.1M sodium methylate solution was added at room temperature, followed by refluxing for 16 hours. After the reaction mixture was cooled, the solvent was distilled off. After the residue was dissolved in water and insoluble substances were filtered out, the filtrate was adjusted to pH 3-4 by adding concentrated hydrochloric acid. The resulting precipitate was collected by filtration, washed with water and n-hexane-diethyl ether and dried to yield 163.23 g (83.3%, white crystal) of the desired product.

reactant | benzylurea | 666 mmol, 100 g | C(C1=CC=CC=C1)NC(=O)N | C8H10N2O
reactant | diethyl phenylmalonate | 666 mmol, 156.8 g | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
reactant | sodium methylate | 4.1M | C[O-].[Na+]
solvent | methanol | 340 ml | CO | CH4O
product | 3-benzyl-5-phenylpyrimidine-2,4,6(1H,3H)-trione | C(C1=CC=CC=C1)N1C(NC(C(C1=O)C1=CC=CC=C1)=O)=O | C17H14N2O3
